US05981533
3-(4-Acetylamino-benzylamino)-5-amino-4-cyano-pyrazole
With stirring, a solution of 1.087 ml (11.5 mmol) of acetic anhydride in 20 ml of THF is added dropwise over a period of 15 minutes, to a suspension, cooled to 0° C., of 2.5 g (10.95 mmol) of 5-amino-3-(4-amino-benzylamino)-4-cyano-pyrazole in 50 ml of THF. The reaction mixture is stirred for a further 2 hours at RT, there initially being formed a solution from which crystalline product gradually precipitates. The reaction mixture is filtered and the filter residue is washed with THF and diethyl ether. Drying under a HV (8 hours, 110° C.) yields the title compound containing 21.06% THF; m.p. 124-126° C. (decomp.); FAB-MS: (M+H)+ 271 (C13H14N6O).

reactant | acetic anhydride | 11.5 mmol, 1.087 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-3-(4-amino-benzylamino)-4-cyano-pyrazole | 10.95 mmol, 2.5 g | NC1=C(C(=NN1)NCC1=CC=C(C=C1)N)C#N | C11H12N6
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(4-Acetylamino-benzylamino)-5-amino-4-cyano-pyrazole | C(C)(=O)NC1=CC=C(CNC2=NNC(=C2C#N)N)C=C1 | C13H14N6O
